* Auto TB for nauta_edge
.include /mnt/e/MyResearch/Mixed_ngspice/test/models/45nm_LP_BSIM4/ptm45lp.lib
.option gmin=1e-12
* NGSPICE file created from nauta.ext - technology: gf180mcuC

.subckt nauta_edge gp vreg op im ip om vdd gnd bp
X0 vdd hih hih vdd pmos_6p0 w=1.8u l=0.6u
X1 gnd lo lo gnd nmos_3p3 w=1.8u l=0.6u
X2 vreg hi hi bp pmos_3p3 w=1.5u l=0.6u
C0 bp vreg 0.23fF
C1 gp vreg 1.01fF
C2 hi vreg 0.11fF
C3 hi bp 0.28fF
C4 hih vdd 0.45fF
C5 vdd vreg 0.22fF
C6 vreg gnd 0.44fF
C7 bp gnd 4.35fF
C8 vdd gnd 4.01fF
C9 lo gnd 0.84fF
C10 hi gnd 0.46fF
C11 hih gnd 0.46fF
.ends

.subckt nauta_cell inl inr out gp vreg op im ip om vdd gnd bp
X0 vreg inr out bp pmos_3p3 w=1.5u l=0.6u
X1 vreg gp vdd vdd pmos_6p0 w=1.8u l=0.6u
X2 out inr vreg bp pmos_3p3 w=1.5u l=0.6u
X3 vreg inl out bp pmos_3p3 w=1.5u l=0.6u
X4 vdd gp vreg vdd pmos_6p0 w=1.8u l=0.6u
X5 dr inr out gnd nmos_3p3 w=1.8u l=0.6u
X6 dl inl gnd gnd nmos_3p3 w=1.8u l=0.6u
X7 gnd inr dr gnd nmos_3p3 w=1.8u l=0.6u
X8 out inl dl gnd nmos_3p3 w=1.8u l=0.6u
X9 out inl vreg bp pmos_3p3 w=1.5u l=0.6u
X10 vreg gp vdd vdd pmos_6p0 w=1.8u l=0.6u
X11 vdd gp vreg vdd pmos_6p0 w=1.8u l=0.6u
C0 vreg out 0.78fF
C1 bp inl 0.32fF
C2 vreg bp 0.92fF
C3 op inl 0.20fF
C4 om inr 0.18fF
C5 inr out 0.19fF
C6 gp vreg 1.98fF
C7 bp inr 0.32fF
C8 op inr 0.20fF
C9 om out 0.11fF
C10 inr inl 0.51fF
C11 bp out 0.15fF
C12 gp vdd 0.66fF
C13 vreg vdd 1.41fF
C14 op out 0.11fF
C15 om inl 0.18fF
C16 out inl 0.17fF
C17 out gnd 1.36fF
C18 inr gnd 2.21fF
C19 inl gnd 2.22fF
C20 vreg gnd 0.72fF
C21 gp gnd 1.56fF
C22 bp gnd 6.58fF
C23 vdd gnd 6.08fF
C24 dr gnd 0.18fF
C25 dl gnd 0.18fF
.ends

.subckt nauta ip im op om vdd gp bp vreg gnd
Xnauta_edge_0 gp vreg op im ip om vdd gnd bp nauta_edge
Xnauta_edge_1 gp vreg op im ip om vdd gnd bp nauta_edge
Xnauta_cell_0 im op op gp vreg op im ip om vdd gnd bp nauta_cell
Xnauta_cell_2 op ip om gp vreg op im ip om vdd gnd bp nauta_cell
Xnauta_cell_1 im om op gp vreg op im ip om vdd gnd bp nauta_cell
Xnauta_cell_3 ip om om gp vreg op im ip om vdd gnd bp nauta_cell
Xnauta_cell_4 op im op gp vreg op im ip om vdd gnd bp nauta_cell
Xnauta_cell_5 om im op gp vreg op im ip om vdd gnd bp nauta_cell
Xnauta_cell_6 ip op om gp vreg op im ip om vdd gnd bp nauta_cell
Xnauta_cell_7 om ip om gp vreg op im ip om vdd gnd bp nauta_cell
C0 om im 0.24fF
C1 vdd vreg 0.21fF
C2 op im 0.99fF
C3 ip om 0.38fF
C4 op om 1.00fF
C5 op ip 0.19fF
C6 vreg om 0.10fF
C7 op vreg 0.10fF
C8 gp vdd 0.12fF
C9 gp vreg -0.59fF
C10 bp gnd 54.77fF
C11 op gnd 23.12fF
C12 vdd gnd 48.69fF
C13 om gnd 23.19fF
C14 ip gnd 15.05fF
C15 im gnd 14.98fF
C16 gp gnd 11.28fF
C17 vreg gnd 2.53fF
.ends



Vdd vdd 0 DC 1.8
Vss gnd 0 DC 0
X1 gp vreg op im ip om vdd gnd bp nauta_edge
.op
.control
op
.endc
.end
